US07268231B2
To a suspension of 2-amino-4-oxo-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester (46.6 mg, 0.20 mmol), Et3N (26.0 mg, 0.26 mmol) and DMAP (2.5 mg, 0.02 mmol) in CH2Cl2 (4 mL) was added dropwise Ac2O (24.5 mg, 0.24 mmol), and the reaction mixture was then heated to reflux under argon for 1 hr. Cooled to r.t., the reaction mixture was concentrated and the residue was partitioned between EtOAc and water. The organic layer was dried over Na2SO4 and concentrated to give 2-acetylamino-4-oxo-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester as an oil (54.0 mg, 98.2%).

reactant | 2-amino-4-oxo-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester | 0.20 mmol, 46.6 mg | C(C1=CC=CC=C1)OC(=O)N1C(=NC(C1)=O)N | C11H11N3O3
reactant | Et3N | 0.26 mmol, 26.0 mg | CCN(CC)CC | C6H15N
reactant | Ac2O | 0.24 mmol, 24.5 mg | CC(=O)OC(=O)C | C4H6O3
catalyst | DMAP | 0.02 mmol, 2.5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 2-acetylamino-4-oxo-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester | 54.0 mg, 98.2% | C(C1=CC=CC=C1)OC(=O)N1C(=NC(C1)=O)NC(C)=O | C13H13N3O4
